US07423159B2
A mixture of 2-(4-nitrophenyl)acetohydrazide (7.0 g), trimethyl orthobutyrate (16.01 g), methanesulfonic acid (0.69 g) and tetrahydrofuran (200 mL) was heated under reflux for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and 2-(4-nitrobenzyl)-5-propyl-1,3,4-oxadiazole was obtained as a colorless oil (7.73 g, yield 87%) from a fraction eluted with hexane-ethyl acetate (3:2-1:2, v/v).

reactant | 2-(4-nitrophenyl)acetohydrazide | 7.0 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)NN | C8H9N3O3
reactant | trimethyl orthobutyrate | 16.01 g | C(CCC)(OC)(OC)OC | C7H16O3
reactant | methanesulfonic acid | 0.69 g | CS(=O)(=O)O | CH4O3S
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 2-(4-nitrobenzyl)-5-propyl-1,3,4-oxadiazole | [N+](=O)([O-])C1=CC=C(CC=2OC(=NN2)CCC)C=C1 | C12H13N3O3
